Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Pollen Extracts
 
Attending: ___.
 
Chief Complaint:
chills/rigors
 
Major Surgical or Invasive Procedure:
none 
None 

 
History of Present Illness:
___ y/o ___ M presents with 2
days of chills, rigors, temperature of ___ (axillary), and
urinary complaints of dysuria, frequency, and urgency w/
incontinence.  He notes some right flank pain with onset of
symptoms and some groin discomfort without testicular pain,
redness, or swelling.  He denies hematuria, abdominal pain, or
diarrhea but endorses anorexia with decreased PO intake.  He
denies history of UTI or kidney stones.  This is the first
episode of similar symptoms.  He was recently seen in the ED ___
with URI-symptoms and treated with azithromycin.   

Translator offered but patient and his wife declined.  Patient
speaks/understands some ___, and his wife was able to
translate the rest. 

 
Past Medical History:
-GERD
-Sugery: left upper extremity lipoma excision, b/l inguinal
hernia repair
 
Social History:
___
Family History:
Denies any known family history. No kidney disease, stroke, DM, 
or cancer. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
-VS:  101.2F (axillary), HR 79, BP 112/70, RR 19, SpO2 96% on RA
-General Appearance: pleasant, comfortable, no acute distress
-Eyes: PERLL, EOMI
-ENT: moist mucus membranes, no goiter
-Respiratory: clear b/l, no wheeze
-Cardiovascular: RRR, no murmur
-Gastrointestinal: soft, right suprapubic tenderness without
rebound, nondistended, bowel sounds present, no guarding, psoas
sign not present. 
-Rectal: enlarged tenderness without tenderness, bogginess, or
nodules 
-Extremities: no cyanosis, clubbing or edema
-Skin: warm, no rashes/no jaundice/no skin ulcerations noted
-Neurological: AAOx3, no focal neurological deficits 
-Psychiatric: pleasant, appropriate affect
-GU: no catheter in place, no CVA tenderness

DISCHARGE PHYSCIAL EXAM 
Tmax 98.5
Gen: Lying in bed in no apparent distress
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, non-tender, non-distended, bowel sounds
present, no HSM
MSK: No edema
GU: No scrotal or testicular tenderness to palpation, no 
abnormal
masses appreciated, no inguinal adenopathy appreciated
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric,
moving all extremities
Psychiatric: pleasant, appropriate affect

 
Pertinent Results:
-WBC 14.7(N 85.6%)
-Na 132, K 67., Cr 0.9 (grossly hemolyzed)
-VBG K 4.6
-UA: leukocyte esterase large, nitrite negative, WBC 126, RBC 
26, bacteria few, epi <1

MICRO:
___ 11:00 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING:
CT abdomen/Pelvis ___
IMPRESSION: 
Bladder wall thickening is most likely related to chronic outlet 
obstruction
the setting of prostatic hypertrophy, however may be seen in the 
setting of
cystitis.  Please correlate with urinalysis.

Scrotal ultrasound ___
IMPRESSION:
1. No evidence of abscess, orchitis, or epididymitis.
2. Moderate right-sided hydrocele with a small amount of debris.
 
 
Brief Hospital Course:
___ presents with 2 days of chills, rigors, fever and dysuria 
admitted with urinary tract infection/pyelonephritis.

# UTI/Pyelonephritis: Urine cultures grew out pansensitive E. 
coli.  Patient was started on IV ciprofloxacin therapy, though 
despite several days of this he continued to spike fevers.  To 
rule out nontreated nidus of infection, he was sent for a CT 
abdomen and pelvis, and subsequently a scrotal ultrasound, both 
of which revealed no acute pathology.  A rectal exam was also 
performed, during which she had no prostatic tenderness, ruling 
out prostatitis.  Eventually he was evaluated by the infectious 
disease service, who felt his clinical picture was consistent 
with simply a UTI/Pyelonephritis with a delayed response to 
treatment. His leukocytosis resolved and his fever curve 
eventually did improve, and by hospital day 5 he remained 
afebrile ×24 hours.  He was cleared to return home, and will 
complete a 14 day total course of therapy with p.o. 
ciprofloxacin 500 mg twice daily on discharge.

#Prostate enlargement, urinary retention: Patient gave a history 
of progressive trouble voiding, urinary retention, and weak 
stream over the past several months.  This is likely due to 
progression of underlying BPH, and likely contributed to his 
development of a urinary tract infection.  He will be started on 
Flomax 0.4 mg nightly on discharge.  He already has a urologist 
through which he has regular PSA monitoring.  He was encouraged 
to follow-up with his urologist in the next few weeks. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain, fever 
take as needed for pain or fever 
RX *acetaminophen 325 mg 2 capsule(s) by mouth every six (6) 
hours Disp #*90 Capsule Refills:*1 
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 9 Days 
Complete the full course of antibiotics 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*17 Tablet Refills:*0 
3.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*2 
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sepsis due to urinary tract infection/pyelonephritis 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were admitted with a urinary tract infection treated with IV 
antibiotics. Urine cultures ended up growing E. coli, which was 
the cause of your infection. Despite being on the right 
antibiotic therapy, you continued to have fevers for a few days 
into your admission. A CT scan of your abdomen and pelvis, as 
well as an ultrasound of your testicles were performed, which 
showed no other source of infection. To make sure we weren't 
missing something, you were seen by our Infectious Disease 
service, who agreed that your fevers were likely due to urinary 
tract infection with involvement of your Kidney, a condition 
called Pyelonephritis. Your fevers eventually resolved on 
hospital day 5, and it was felt safe for you to return home. We 
will send you home on a longer course of oral antibiotic therapy 
for your urinary tract infection. 
 
Followup Instructions:
___